US05185342
Production of (E)-N-methyl-2-[2-(4-isopropylphenoxy)phenyl]-2-methoxyiminoacetamide (Compound No. 36)
In the same manner as in Example 14, the objective compound was prepared from 2-chloropropane and (E)-N-methyl-2-(2-phenoxyphenyl)-2-methoxyiminoacetamide.

reactant | 2-chloropropane | ClC(C)C | C3H7Cl
reactant | (E)-N-methyl-2-(2-phenoxyphenyl)-2-methoxyiminoacetamide | CNC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C16H16N2O3
product | (E)-N-methyl-2-[2-(4-isopropylphenoxy)phenyl]-2-methoxyiminoacetamide | CNC(/C(=N/OC)/C1=C(C=CC=C1)OC1=CC=C(C=C1)C(C)C)=O | C19H22N2O3
